US06331640B1
An aqueous solution of sodium hydroxide (1M, 190 μL, 0.19 mmol) was added to a solution of N-[2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine, methyl ester (108 mg, ˜0.169 mmol) in methanol (1 mL). The solution was allowed to stir at room temperature for 2 days, then it was concentrated and held under high vacuum for 1 h to give N-[2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine (100 mg, 97%) as a yellow solid.

reactant | sodium hydroxide | 0.19 mmol, 1M, 190 μL | [OH-].[Na+]
reactant | N-[2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine, methyl ester | ˜0.169 mmol, 108 mg | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)OC)C=CC(=C1)C(=O)NCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C30H30ClN5O6S
solvent | methanol | 1 mL | CO | CH4O
product | N-[2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | 100 mg, 97% | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C29H28ClN5O6S
